US04939138
Similarly (-)-3-(4-morpholinylmethyl)-5-methyl-6-(1-naphthylcarbonyl)-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine methanesulfonate (7.2 g), m.p. 256°-260° C., [α]D25 =-39.4° (1% in DMF) was prepared by reaction of 9.3 g (0.037 mole) of (-)3-(4-morpholinylmethyl)-4-amino-3,4-dihydro-2H-1,4-benzoxazine with 9.5 g (0.045 mole) of 4-(1-naphthyl)-2,4-butanedione in toluene in the presence of a catalytic amount of pyridine 3-nitrobenzenesulfonate followed by cyclization of the resulting hydrazone by refluxing in glacial acetic acid and recrystallization of the product from methanol/diethyl ether.

reactant | (-)3-(4-morpholinylmethyl)-4-amino-3,4-dihydro-2H-1,4-benzoxazine | 0.037 mole, 9.3 g | N1(CCOCC1)CC1COC2=C(N1N)C=CC=C2 | C13H19N3O2
reactant | 4-(1-naphthyl)-2,4-butanedione | 0.045 mole, 9.5 g | C1(=CC=CC2=CC=CC=C12)C(CC(C)=O)=O | C14H12O2
reactant | pyridine 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)O.N1=CC=CC=C1
solvent | DMF | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (-)-3-(4-morpholinylmethyl)-5-methyl-6-(1-naphthylcarbonyl)-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine methanesulfonate | 7.2 g | CS(=O)(=O)O.N1(CCOCC1)CC1COC=2C=3N1C(=C(C3C=CC2)C(=O)C2=CC=CC3=CC=CC=C23)C | InChI=1S/C27H26N2O3.CH4O3S/c1-18-25(27(30)22-9-4-7-19-6-2-3-8-21(19)22)23-10-5-11-24-26(23)29(18)20(17-32-24)16-28-12-14-31-15-13-28;1-5(2,3)4/h2-11,20H,12-17H2,1H3;1H3,(H,2,3,4)
